US05750213
First, 14.8 g of diethyl 2,2-bis(6-benzyloxyhexyl)malonate, 0.5 g of water, 2.3 g of lithium chloride, and 50 ml of dimethyl sulfoxide were placed in a 100 ml flask. Then, the mixture was stirred at 180° C. for 12 hours. The reaction mixture was poured into water, and an organic layer was extracted with methylene chloride. The methylene chloride layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=9/1) to obtain 9.4 g of ethyl 2,2-bis(6-benzyloxyhexyl)acetate (Y: 72.9%). The compound thus obtained had a purity of 97.9% by GC.

reactant | diethyl 2,2-bis(6-benzyloxyhexyl)malonate | 14.8 g | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCC)(C(=O)OCC)CCCCCCOCC1=CC=CC=C1 | C33H48O6
reactant | lithium chloride | 2.3 g | [Cl-].[Li+]
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 0.5 g | O | H2O
product | ethyl 2,2-bis(6-benzyloxyhexyl)acetate | 9.4 g, 72.9% | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCC)CCCCCCOCC1=CC=CC=C1 | C30H44O4
